US06555563B1
1-[4-(Aminosulfonyl)phenyl]-2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-1H-imidazole
To a solution of 1-[4- {(2-trimethyl silyl) ethyl)sulfonyl}phenyl]-2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-1H-imidazole (2.3 g, 4.29 mmol) in dry THF (50 mL) was added tetrabutylammonium fluoride (12.8 mL, 1M solution in THF, 12.8 mmol). The mixture was refluxed for 30 min and cooled to room temperature. A solution of sodium acetate trihydrate (2.92 g, 21.4 mmol) in water (5 mL) was added followed by hydroxylamine-O-sulfonic acid (2.42 g, 21.4 mmol), and the mixture was stirred for 4 hour. The reaction mixture was quenched by adding water (50 mL) and extracted with ethyl acetate. The organic fractions were washed with water, brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by chromatography on silica gel using hexane/ethyl acetate as an eluent to give the product (1.2 g, 62%) as a white solid; 1H NMR δ (DMSO-d6) 8.54 (1H, s), 7.98 (4H, m), 7.87 (2H, d, J=8.7 Hz), 7.61 (2H, s), 7.58 (3H, m); 13C NMR δ (DMSO-d6) 170.7, 160.0, 147.0, 141.0, 140.1, 133.9, 133.7, 131.6, 130.9, 129.9, 129.6, 128.6, 124.0(q).

reactant | 2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-1H-imidazole | 4.29 mmol, 2.3 g | C1(=CC=CC=C1)C=1SC(=NN1)C=1NC=C(N1)C(F)(F)F | C12H7F3N4S
reactant | tetrabutylammonium fluoride | 12.8 mmol, 1M, 12.8 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium acetate trihydrate | 21.4 mmol, 2.92 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 21.4 mmol, 2.42 g | NOS(=O)(=O)O | H3NO4S
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 1-[4-(Aminosulfonyl)phenyl]-2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-1H-imidazole | 1.2 g, 62% | NS(=O)(=O)C1=CC=C(C=C1)N1C(=NC(=C1)C(F)(F)F)C1=NN=C(S1)C1=CC=CC=C1 | C18H12F3N5O2S2
